US06780996B2
Sodium (84 mg, 3.67 mmol) is added to 3.6 mL of 2-methoxyethanol and the mixture is heated at reflux for 90 minutes. 7-Fluoro-6-methoxy-4-oxo-1,4,-dihydro-3-quinolinecarbonitrile (200 mg, 0.92 mmol) is added and the reaction mixture is heated at reflux for 4 hours then stirred at room temperature overnight. The reaction mixture is poured into ice water and acidified with acetic acid. The solids are collected by filtration, washing with ethyl acetate and hexane, to provide 234 mg of 6-methoxy-7-(2-methoxyethoxy)-4-oxo-1,4,-dihydro-3-quinolinecarbonitrile, mp>300° C.

reactant | Sodium | 3.67 mmol, 84 mg | [Na] | Na
reactant | 2-methoxyethanol | 3.6 mL | COCCO | C3H8O2
reactant | 7-Fluoro-6-methoxy-4-oxo-1,4,-dihydro-3-quinolinecarbonitrile | 0.92 mmol, 200 mg | FC1=C(C=C2C(C(=CNC2=C1)C#N)=O)OC | C11H7FN2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-methoxy-7-(2-methoxyethoxy)-4-oxo-1,4,-dihydro-3-quinolinecarbonitrile | 234 mg | COC=1C=C2C(C(=CNC2=CC1OCCOC)C#N)=O | C14H14N2O4
